US04128647
A. 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis-(phenylmethylene)-2H-thiopyran-4-ol
A slurry of tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one (5.5 g, 18.9 mmole) in 200 ml of acetone is treated with a solution of 2-amino-2-thiazoline (2.0 g, 19.6 mmole, filtered) in 100 ml of acetone at room temperature. The mixture never becomes homogeneous, but the nature of the solids change (yellow to white). After stirring at room temperature for 2 days, the starting ketone remains as evidenced by tlc. Additional 2-amino-2-thiazoline (1 g, 9.8 mmole, filtered) in 50 ml of acetone is added and the mixture is heated at reflux temperature for 1 day. Upon cooling to room temperature, filtration and washing with acetone affords a combined yield of 6.9 g (92.5%) of product in two crops, m.p. 171°-172.5°).

reactant | tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one | 18.9 mmole, 5.5 g | C1(=CC=CC=C1)C=C1CSCC(C1=O)=CC1=CC=CC=C1 | C19H16OS
reactant | 2-amino-2-thiazoline | 19.6 mmole, 2.0 g | NC=1SCCN1 | C3H6N2S
reactant | 2-amino-2-thiazoline | 9.8 mmole, 1 g | NC=1SCCN1 | C3H6N2S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis-(phenylmethylene)-2H-thiopyran-4-ol | yield of 6.9 g, 92.5% | S1C(=NCC1)NC1(C(CSCC1=CC1=CC=CC=C1)=CC1=CC=CC=C1)O | C22H22N2OS2
